US07618985B2
To a solution of 3-hydroxypiperidine-1-carboxylic acid tert-butyl ester (231 mg, 1.15 mmol), triphenylphosphine (301 mg, 1.15 mmol), 1-amino-7-methylisoquinolin-6-ol (200 mg, 1.15 mmol) in DMF (5 ml) at 0° C., under argon, was added dropwise diethylazodicarboxylate (181 [μL, 1.15 mmol). The mixture was then warmed to ambient temperature and stirred for 24 h. Methanol was added and the mixture loaded onto a pre-acidified SCX column, washed with methanol and then eluted with 2M ammonia in methanol. The crude product was isolated and further purified using prep-HPLC to give 3-(1-Amino-7-methylisoquinolin-6-yloxy)piperidine-1-carboxylic acid tert-butyl ester. A mixture of the (3-(1-Amino-7-methylisoquinolin-6-yloxy)piperidine-1-carboxylic acid tert-butyl ester in dichloromethane (10 ml) and trifluoroacetic acid (3 ml) was stirred at ambient temperature overnight. The mixture was concentrated in vacuo to give a residue. The residue was loaded onto a pre-acidified SCX column, washed with methanol and then eluted with 2M ammonia in methanol. The crude product was isolated and further purified using prep-HPLC to give 7-methyl-6-(piperidin-3-yloxy)isoquinolin-1-ylamine, El-MS: m/z=258.3 [M+H]+.

reactant | 3-(1-Amino-7-methylisoquinolin-6-yloxy)piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CCC1)OC=1C=C2C=CN=C(C2=CC1C)N | C20H27N3O3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7-methyl-6-(piperidin-3-yloxy)isoquinolin-1-ylamine | CC1=C(C=C2C=CN=C(C2=C1)N)OC1CNCCC1 | C15H19N3O
